US08461179B1
A solution of 1-(5-(7-((4-methoxybenzyl)(methyl)amino)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-(3-fluorophenyl)urea (267 mg, 0.421 mmol) in TFA (3 mL) was stirred at RT for 40 min. The mixture was evaporated at reduced pressure, dissolved in EtOAc, washed with satd. NaHCO3, then brine, dried (Na2SO4), concentrated in vacuo, purified by reverse phase chromatography (MeCN/water with 0.1% TFA) and partially concentrated to give an aqueous solution. The aqueous solution was diluted with satd. NaHCO3 and allowed to precipitate. The white solid was collected by filtration, washed with water and dried in vacuo to give 1-(5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-(3-fluorophenyl)urea (83 mg, 50% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.50 (br s, 1H), 8.80 (br s, 1H), 8.42 (s, 1H), 8.10-8.00 (m, 1H), 7.82 (s, 1H), 7.48 (d, 1H), 7.40-7.30 (m, 2H), 7.15-7.05 (m, 2H), 6.80-6.70 (m, 1H), 5.99 (s, 1H), 4.13 (m, 2H), 2.85 (s, 3H), 1.21 (m, 3H); MS (ES-API) m/z: 468.1 [M+H]+.

reactant | 1-(5-(7-((4-methoxybenzyl)(methyl)amino)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-(3-fluorophenyl)urea | 0.421 mmol, 267 mg | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)CC)=O)C=2C(=CC(=C(C2)NC(=O)NC2=CC(=CC=C2)F)F)F)C)C=C1 | C32H28F3N5O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)-3-(3-fluorophenyl)urea | 83 mg, 50% yield | C(C)N1C(C(=CC2=CN=C(C=C12)NC)C=1C(=CC(=C(C1)NC(=O)NC1=CC(=CC=C1)F)F)F)=O | C24H20F3N5O2
